US06492348B1
(2R,3R,4S,5R)-2-{2-chloro-6-[(1-ethylpropyl)amino]-9H-purin-9-yl}-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3,4-diol formate
A mixture of (2R,3R,4R,5R)-4-(acetyloxy)-2-{2-chloro-6-[(1-ethylpropyl)amino]-9H-purin-9-yl}-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate (30 mg) and 2-morpholinoethylamine (0.037 ml) was heated at 90° C. for 24 h in dimethylsulphoxide (0.5 ml). Heating was continued for 60 h at 90° C. Purification by preparative HPLC (gradient profile 5-95% (ii) over 18.25 min) gave the title compound as a white solid (6 mg).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-{2-chloro-6-[(1-ethylpropyl)amino]-9H-purin-9-yl}-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate | 30 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=NOC(=C1)CC)N1C2=NC(=NC(=C2N=C1)NC(CC)CC)Cl | C23H29ClN6O6
reactant | 2-morpholinoethylamine | 0.037 ml | O1CCN(CC1)CCN | C6H14N2O
solvent | dimethylsulphoxide | 0.5 ml | CS(=O)C | C2H6OS
product | (2R,3R,4S,5R)-2-{2-chloro-6-[(1-ethylpropyl)amino]-9H-purin-9-yl}-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3,4-diol formate | 6 mg | C(=O)O.ClC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C1=NOC(=C1)CC)NC(CC)CC | InChI=1S/C19H25ClN6O4.CH2O2/c1-4-9(5-2)22-16-12-17(24-19(20)23-16)26(8-21-12)18-14(28)13(27)15(29-18)11-7-10(6-3)30-25-11;2-1-3/h7-9,13-15,18,27-28H,4-6H2,1-3H3,(H,22,23,24);1H,(H,2,3)/t13-,14+,15+,18+;/m0./s1
